US03996209
A mixture of ethanol (300 ml) and hexamethylenetetramine (20 g., 0.143 mol) was stirred, heated to reflux, and saturated with ammonia. 2-Chloroacetamidobenzophenone (18.1 g., 0.066 mol) was added in small increments over 3 to 4 hours while a steady stream of ammonia was bubbled into the reaction mixture. Refluxing was continued for 3 hours after complete addition of 2-chloroacetamidobenzophenone. The flow of ammonia was interrupted and the ethanol removed by distillation in vacuo. The residue obtained was taken up in chloroform (200 ml), and washed with water (100 ml) at 50° C. The chloroform layer was evaporated to dryness at 30° C. and the oily solid obtained was recrystallized from toluene (100 ml) to give 1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one (13.2 g., 86%), melting at 184°-186° C.

reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | hexamethylenetetramine | 0.143 mol, 20 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonia | N | H3N
reactant | 2-Chloroacetamidobenzophenone | 0.066 mol, 18.1 g | ClCC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C15H12ClNO2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | 13.2 g, 86% | C1(=CC=CC=C1)C1=NCC(NC2=C1C=CC=C2)=O | C15H12N2O
